US09024027B2
Step 4: Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-(methylsulfonamido)-1-oxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (10)
(S)-4-(2-(2-(6-amino-1-oxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide (50 mg, 0.08 mmol) was dissolved in CH2Cl2 (2 ml) and pyridine (50 μl), then methanesulfonyl chloride was added (11 mg, 0.1 mmol) at 0° C. The mixture was stirred at RT for 2 hours, then diluted with CH2Cl2 (20 ml) and quenched with HCl 1N aqueous solution (30 ml). The two phases were separated, and the organic phase washed with HCl 1N aqueous solution (2×20 ml), dried over Na2SO4 and evaporated under vacuum. The crude was purified by preparative HPLC (Method 2) to yield 41 mg of the title compound. (Yield 75%). 1H NMR (400 MHz, acetone) δ ppm 8.71-8.92 (m, 1H), 8.22 (s, 2H), 7.73 (m, 1H), 7.59 (m, 2H), 7.15-7.30 (m, 2H), 7.05 (dd, J=8.38, 1.76 Hz, 1H), 6.93 (t, 1H, CHF2), 6.15 (dd, J=9.70, 4.85 Hz, 1H), 4.49 (s, 2H), 4.44 (d, J=3.53 Hz, 2H), 3.98 (d, J=7.06 Hz, 2H), 3.55 (dd, J=14.11, 9.26 Hz, 1H), 3.32 (dd, J=14.11, 4.85 Hz, 1H), 3.05 (s, 3H), 1.29 (m, 1H), 0.55-0.69 (m, 2H), 0.27-0.47 (m, 2H); MS/ESI+ 686.51 [MH]+.

reactant | (S)-4-(2-(2-(6-amino-1-oxoisoindolin-2-yl)acetoxy)-2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)ethyl)-3,5-dichloropyridine 1-oxide | 0.08 mmol, 50 mg | NC1=CC=C2CN(C(C2=C1)=O)CC(=O)O[C@@H](CC1=C(C=[N+](C=C1Cl)[O-])Cl)C1=CC(=C(C=C1)OC(F)F)OCC1CC1 | C28H25Cl2F2N3O6
reactant | methanesulfonyl chloride | CS(=O)(=O)Cl | CH3ClO2S
solvent | CH2Cl2 | 2 ml | C(Cl)Cl | CH2Cl2
solvent | pyridine | 50 μl | N1=CC=CC=C1 | C5H5N
solvent | CH2Cl2 | 20 ml | C(Cl)Cl | CH2Cl2
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(6-(methylsulfonamido)-1-oxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 41 mg, Yield 75% | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC(=CC=C2C1)NS(=O)(=O)C)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H27Cl2F2N3O8S
